US08022222B2
N-(4-phenylthiazol-2-yl)-5-(piperidin-4-ylmethylthio)-4-(quinolin-5-yloxy)pyridin-2-amine dihydrochloride
A flask was charged with tert-butyl 4-((6-(4-phenylthiazol-2-ylamino)-4-(quinolin-5-yloxy)pyridin-3-ylthio)methyl)piperidine-1-carboxylate (prepared according to the method of Example 202) (0.150 g, 0.240 mmol) and 4 mL DCM. TFA (4 mL) was added and the reaction was stirred at ambient temperature for 2 hours and then concentrated. The crude material was purified on a SCX ion exchange column using DCM, methanol and ammoniated methanol as eluent. The isolated material was treated with 2M HCl (2 mL) in ether and dried to give the title compound (0.057 g, 39.3% yield) as light yellow solid. 1H NMR (DMSO-d6) δ 11.14 (s, 1H), 9.06 (dd, 1H), 8.67 (m, 1H), 8.43 (s, 1H), 8.34 (d, 1H), 8.09 (d, 1H), 7.91 (t, 1H), 7.71 (s, 1H), 7.70 (s, 1H), 7.67 (dd, 1H), 7.50 (d, 1H), 7.43 (s, 1H), 7.31 (t, 2H), 7.28 (m, 1H) 6.58 (s, 1H), 3.25 (m, 2H), 2.95 (d, 2H), 2.86 (m, 2H), 2.01 (m, 2H), 1.80 (m, 1H), 1.40 (m, 2H).

reactant | tert-butyl 4-((6-(4-phenylthiazol-2-ylamino)-4-(quinolin-5-yloxy)pyridin-3-ylthio)methyl)piperidine-1-carboxylate | C1(=CC=CC=C1)C=1N=C(SC1)NC1=CC(=C(C=N1)SCC1CCN(CC1)C(=O)OC(C)(C)C)OC1=C2C=CC=NC2=CC=C1 | C34H35N5O3S2
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | N-(4-phenylthiazol-2-yl)-5-(piperidin-4-ylmethylthio)-4-(quinolin-5-yloxy)pyridin-2-amine dihydrochloride | 0.057 g, 39.3% yield | Cl.Cl.C1(=CC=CC=C1)C=1N=C(SC1)NC1=NC=C(C(=C1)OC1=C2C=CC=NC2=CC=C1)SCC1CCNCC1 | InChI=1S/C29H27N5OS2.2ClH/c1-2-6-21(7-3-1)24-19-37-29(33-24)34-28-16-26(27(17-32-28)36-18-20-11-14-30-15-12-20)35-25-10-4-9-23-22(25)8-5-13-31-23;;/h1-10,13,16-17,19-20,30H,11-12,14-15,18H2,(H,32,33,34);2*1H
